US04515814
3. 3-[4-(2-Cyclohexyloxyethyl)-phenoxy]-1,2-epoxypropane
13.3 g (0.06 mol) of 4-(2-cyclohexyloxyethyl)-phenol, 3.04 (0.076 mol) of sodium hydroxide pellets and 50 cc of water are introduced into a round-bottomed flask. The mixture is stirred at ambient temperature and, when the solution has become homogeneous, 18.6 g (16 cc, 0.2 mol) of epichlorohydrin are introduced. The stirring is continued at ambient temperature for 16 hours. Extraction is carried out with diethyl ether and the organic phase is washed with water. It is dried over magnesium sulphate and the ether is driven off. This gives an oil, which is used directly in the next step.

reactant | 4-(2-cyclohexyloxyethyl)-phenol | 0.06 mol, 13.3 g | C1(CCCCC1)OCCC1=CC=C(C=C1)O | C14H20O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | epichlorohydrin | 0.2 mol, 16 cc, 18.6 g | C(Cl)C1CO1 | C3H5ClO
solvent | water | 50 cc | O | H2O
product | 3-[4-(2-Cyclohexyloxyethyl)-phenoxy]-1,2-epoxypropane | C1(CCCCC1)OCCC1=CC=C(OCC2CO2)C=C1 | C17H24O3
